US05654307
A solution of 4-(3-bromoanilino)-7-fluoropyrido[2,3-d]pyrimidine (see a previous experimental) (0.20 g, 0.63 mmol), methylamine hydrochloride (0.13 g, 1.88 mmol) and Et3N (0.30 mL) 2.19 mmol) in EtOH (15 mL) is heated at 100° C. in a pressure vessel for 18 h. The solvent is removed under reduced pressure, and the residue is partitioned between EtOAc and water. Workup of the organic layer gives 4-(3-bromoanilino)-7-(methylamino)pyrido[2,3-d]pyrimidine (0.16 g, 77%). 1H NMR (DMSO) δ 9.53 (1H, s), 8.54 (1H, s), 8.41 (1H, d, J=8.1 Hz), 8.17 (1H, t, J=1.8 Hz), 7.83 (1H, dd, J=8.0, 1.9 Hz), 7.66 (1H, brs), 7.32 (1H, t, J=8.0 Hz), 7.24 (1H, dd, J=8.0, 1.8 Hz), 6.77 (1H, d, J=8.1 Hz), 2.92 (3H, d, J=4.8 Hz).

reactant | 4-(3-bromoanilino)-7-fluoropyrido[2,3-d]pyrimidine | BrC=1C=C(NC=2C3=C(N=CN2)N=C(C=C3)F)C=CC1 | C13H8BrFN4
reactant | methylamine hydrochloride | 1.88 mmol, 0.13 g | Cl.CN
reactant | Et3N | 2.19 mmol, 0.30 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 15 mL | CCO | C2H6O
product | 4-(3-bromoanilino)-7-(methylamino)pyrido[2,3-d]pyrimidine | 0.16 g, 77% | BrC=1C=C(NC=2C3=C(N=CN2)N=C(C=C3)NC)C=CC1 | C14H12BrN5
